US05981776
Process for the preparation of 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2H-1-benzofuran-5-methanol
A 1M solution of borane in THF (7.7 ml, 7.7 mmol) is added dropwise at OOC to a solution of 3-methyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2H-1-benzofuran-5-carboxylic acid (1.7 g, 4.7 mol) in THF (10 ml). The mixture is stirred for 4 h at room temperature and 2 ml of a solution of THF and water (1:1) is then added. After concentration on a rotary evaporator under vacuum at 40° C. The mixture is extracted with ethyl acetate. The organic phase is washed with water, dried over anhydrous magnesium sulphate, concentrated on a rotary evaporator under vacuum at 40° C. The product is purified by flash chromatography on a column of silica.

reactant | borane | B | BH3
reactant | 3-methyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2H-1-benzofuran-5-carboxylic acid | 4.7 mol, 1.7 g | CC1(COC2=C1C=C(C=C2)C(=O)O)C2=CC=1C(CCC(C1C=C2)(C)C)(C)C | C24H28O3
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 7.7 mmol, 7.7 ml | C1CCOC1 | C4H8O
product | 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2H-1-benzofuran-5-methanol | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1(COC2=C1C=C(C=C2)CO)C)C | C24H30O2
